US07230023B2
(1) 4-Methoxybenzyl 2-[[bis(allyloxy)phosphoryl]oxymethyl]-6-flourobenzoate
According to a similar procedure to that described in Example 4-(5), 7-fluoro-1(3H)-isobenzofuranone (described in Tetrahedron, 54, 7485 (1998); 1.67 g, 11 mmol) was reacted with an aqueous solution of sodium hydroxide (1.008N; 10.9 ml, 11 mmol), 4-methoxybenzyl chloride (1.57 g, 10 mmol), tetrazole (1.40 g, 20 mmol), bis(allyloxy)(diisopropylamino)phosphine (described in Tetrahedron Lett., 30, 4219 (1989); 3.1 g, 12.6 mmol), and tert-butyl hydroperoxide (80% di-tert-butyl peroxide solution; Merck; 2.7 g, 24 mmol), and the reaction mixture was worked up to afford, after extraction, an oily residue. The oily residue was subjected to chromatography on a silica gel (100 g) column (eluent; ethyl acetate:hexane=2:3) to afford a mixture of a solid and an oily material. The mixture was washed with a mixed solvent of ethyl acetate and hexane, the washings were concentrated under reduced pressure to give a residue. The residue was subjected to chromatography on a silica gel (50 g) column (eluent; ethyl acetate:hexane=1:4˜1:2) to afford the title compound (1.08 g, 24% yield) as a colorless oil.

reactant | 7-fluoro-1(3H)-isobenzofuranone | 11 mmol, 1.67 g | FC=1C=CC=C2COC(C12)=O | C8H5FO2
reactant | sodium hydroxide | 11 mmol, 1.008N, 10.9 ml | [OH-].[Na+]
reactant | 4-methoxybenzyl chloride | 10 mmol, 1.57 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | tetrazole | 20 mmol, 1.40 g | N1N=NN=C1 | CH2N4
reactant | bis(allyloxy)(diisopropylamino)phosphine | 12.6 mmol, 3.1 g | C(C=C)OP(N(C(C)C)C(C)C)OCC=C | C12H24NO2P
reactant | tert-butyl hydroperoxide | 24 mmol, 2.7 g | C(C)(C)(C)OO | C4H10O2
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Methoxybenzyl 2-[[bis(allyloxy)phosphoryl]oxymethyl]-6-flourobenzoate | 1.08 g, 24% yield | C(C=C)OP(=O)(OCC=C)OCC1=C(C(=O)OCC2=CC=C(C=C2)OC)C(=CC=C1)F | C22H24FO7P
